US07482341B2
2-Chloro-N-[6-(2,2,2-trifluoro-ethoxymethyl)-pyridin-2-yl]-5-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine (0.08 g) and 2-chloro-5-(trifluoromethyl)- benzenesulfonyl chloride (0.119 g) as alight yellow solid (0.123 g). MS (ESI−): 447.0 ([M−H]−).

reactant | 6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine | 0.08 g | FC(COCC1=CC=CC(=N1)N)(F)F | C8H9F3N2O
reactant | 2-chloro-5-(trifluoromethyl)- benzenesulfonyl chloride | 0.119 g | ClC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
product | 2-Chloro-N-[6-(2,2,2-trifluoro-ethoxymethyl)-pyridin-2-yl]-5-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NC1=NC(=CC=C1)COCC(F)(F)F | C15H11ClF6N2O3S
